US06022894
To a solution of 18-crown-6 (3.96 g, 15 mmol) in 30 mL of acetonitrile were added dry potassium acetate (1.47 g, 15 mmol) and 2-chloro-6-fluorobenzonitrile (1.56 g, 10 mmol). The reaction was refluxed under nitrogen for 25 hours, then cooled to room temperature. Sodium hydroxide (2 mL of a 10M solution, 20 mmol) and water (5 mL) were added, and the reaction stirred at room temperature for two hours. The acetonitrile was removed on a rotary evaporator, and the residue was taken up in ether and water. The basic aqueous layer was washed three times with ether. The aqueous layer was then made acidic with HCl, and the product extracted into ether. The ether layer was dried over anhydrous sodium sulfate, filtered, and concentrated. The resulting solid was crystallized from water/methanol to yield 1.11 g of 3-chloro-2-cyanophenol.

reactant | 18-crown-6 | 15 mmol, 3.96 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium acetate | 15 mmol, 1.47 g | C(C)(=O)[O-].[K+]
reactant | 2-chloro-6-fluorobenzonitrile | 10 mmol, 1.56 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | 3-chloro-2-cyanophenol | 1.11 g | ClC=1C(=C(C=CC1)O)C#N | C7H4ClNO
